US04041169
By following the procedure of this example but replacing 6-benzyloxy-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid with an equivalent amount of 6-benzyloxy-1-[2-(dimethylamino)ethyl]-9-ethyl-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole hydrochloride, described in Example 731b, then 1-[2-(dimethylamino)ethyl]9-ethyl-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indol-6-ol hydrochloride, is obtained m.p. 213° - 214° C.; the corresponding free base of the latter compound has nmr (CDCl3) δ 1.36 (t, J = 7 cps, 3H) 1.6 (s, 3H), 2.18 (s,6H). Likewise, replacement with 6-benzyloxy-1,9-dimethyl-1-[2-(dimethylamino)ethyl]-1,3,4,9-tetrahydropyrano[3,4-b]indole hydrochloride described in Example 731d, gives 1,9-dimethyl-1-[2-(dimethylamino)ethyl]1,3,4,9-tetrahydropyrano[3,4-b]indol-6-ol hydrochloride, m.p. 242°-244° C., corresponding free base has nmr (CDCl3) δ 1.6 (s, 3 H), 2.2 (s, 6H), 3.7 (s, 3H).

reactant | 6-benzyloxy-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid | C(C1=CC=CC=C1)OC=1C=C2C3=C(NC2=CC1)C(OCC3)(CC(=O)O)C | C21H21NO4
reactant | 6-benzyloxy-1-[2-(dimethylamino)ethyl]-9-ethyl-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C2C3=C(N(C2=CC1)CC)C(OCC3)(C)CCN(C)C
product | 1-[2-(dimethylamino)ethyl]9-ethyl-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indol-6-ol hydrochloride | Cl.CN(CCC1(OCCC2=C1N(C1=CC=C(C=C21)O)CC)C)C | InChI=1S/C18H26N2O2.ClH/c1-5-20-16-7-6-13(21)12-15(16)14-8-11-22-18(2,17(14)20)9-10-19(3)4;/h6-7,12,21H,5,8-11H2,1-4H3;1H
